US04667032
4-(n-Butylthio)-2-methyl-3H-phenothiazin-3-one
To a solution of 2-methyl-phenothiazin-3-one (0.23 g) in 12 ml dichloroethane was added triethylamine (0.8 ml) and n-butanethiol (0.7 ml). The mixture was stirred at room temperature for 72 hours. 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone (0.22 g) was added. The mixture was stirred at room temperature for 2 hours. The mixture was stirred at room temperature for 2 hours. The solvent was removed in vacuo and the residue was chromatographed on neutral alumina (Act III) eluting with 15% EtOAc/hexane to give the title compound (120 mg), m.p. 97° C.

reactant | 2-methyl-phenothiazin-3-one | 0.23 g | CC1=CC2=NC3=CC=CC=C3SC2=CC1=O | C13H9NOS
reactant | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
reactant | n-butanethiol | 0.7 ml | C(CCC)S | C4H10S
reactant | 2,3-Dichloro-5,6-dicyano-1,4-benzoquinone | 0.22 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | dichloroethane | 12 ml | ClC(C)Cl | C2H4Cl2
product | 4-(n-Butylthio)-2-methyl-3H-phenothiazin-3-one | 120 mg | C(CCC)SC=1C(C(=CC2=NC3=CC=CC=C3SC12)C)=O | C17H17NOS2
